US08557876B2
A 100 mL reaction flask is charged with 1-(2,6,6-trimethyl-cyclohex-3-enyl)-ethanone (10 g, 0.06 mol, commercially available at IFF), formamidine acetate (31 g, 0.3 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 4-(2,6,6-trimethyl-cyclohex-3-enyl)-pyrimidine (˜10 g) is obtained.

reactant | 1-(2,6,6-trimethyl-cyclohex-3-enyl)-ethanone | CC1C(C(CC=C1)(C)C)C(C)=O | C11H18O
reactant | formamidine acetate | 0.3 mol, 31 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 4-(2,6,6-trimethyl-cyclohex-3-enyl)-pyrimidine | ˜10 g | CC1C(C(CC=C1)(C)C)C1=NC=NC=C1 | C13H18N2
